US07119214B2
1) Synthesis of 2,4-dichloro-benzenesulfonic acid 2-amino-3-methyl-phenyl ester
To a mixture of 2,4-dichlorobenzenesulfonyl chloride (20.2 g, 82.3 mmol) and 2-amino-m-cresol (11 g, 89.4 mmol) in 200 mL of methylene chloride, triethylamine (8.5 g, 83.4 mmol) was added dropwise at 5° C. The mixture was stirred at ambient temperature for 16 hours.

reactant | 2,4-dichlorobenzenesulfonyl chloride | 82.3 mmol, 20.2 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2-amino-m-cresol | 89.4 mmol, 11 g | NC1=C(C=CC=C1O)C | C7H9NO
reactant | triethylamine | 83.4 mmol, 8.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dichloro-benzenesulfonic acid 2-amino-3-methyl-phenyl ester | NC1=C(C=CC=C1C)OS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl | C13H11Cl2NO3S
